US07189741B2
B. Preparation of 4-bromo-3-[4-(1-[1,3]dioxolan-2-ylmethyl-1H-indol-3-yl)-piperidin-1-ylmethyl]-benzoic acid
This compound was prepared following the procedure described in example 1 (part E) starting with 0.055 g (0.13 mmol) 4-bromo-3-[4-(1H-indol-3-yl)-piperidin-1-ylmethyl]-benzoic acid methyl ester and 0.034 mg (0.16 mmol) 2-bromomethyl-[1,3]dioxolane. After the described purification, 0.021 g (32% of yield) of the expected acid was obtained.

reactant | 4-bromo-3-[4-(1H-indol-3-yl)-piperidin-1-ylmethyl]-benzoic acid methyl ester | 0.13 mmol, 0.055 g | COC(C1=CC(=C(C=C1)Br)CN1CCC(CC1)C1=CNC2=CC=CC=C12)=O | C22H23BrN2O2
reactant | 2-bromomethyl-[1,3]dioxolane | 0.16 mmol, 0.034 mg | BrCC1OCCO1 | C4H7BrO2
product | 4-bromo-3-[4-(1-[1,3]dioxolan-2-ylmethyl-1H-indol-3-yl)-piperidin-1-ylmethyl]-benzoic acid | BrC1=C(C=C(C(=O)O)C=C1)CN1CCC(CC1)C1=CN(C2=CC=CC=C12)CC1OCCO1 | C25H27BrN2O4
